US08349835B2
Step D: General Procedure for the Synthesis of 1-phenyl-3-(2-cyan-4-methoxy-5-n-butoxyphenyl)triazene
0.22 g (1 mmol) 2-cyano-4-methoxy-5-n-butoxyphenylamine and 3 mL (10 mol/L) hydrochloric acid were added into a round bottom flask. The solution was cooled to 0° C. and diazotized with sodium nitrite (0.072 g, 1 mmol) dissolved in water (1.0 mL), which was added dropwise to the solution. The mixture was stirred to react for 20 min. After adjusting the pH to 5˜6 with sodium acetate, the ethanol solution of aniline (0.093 g, 1 mmol) was added dropwise to the reaction mixture to react for 2 h under stirring, while maintaining the reaction temperature at between 0˜5° C., and using sodium acetate to keep the pH value at 5-6. The solution was kept overnight, filtered, and washed with water till colorless. The crude product was purified on a silica gel column with petroleum ether:ethyl acetate (v/v)=15:1 to yield 0.154 g of orange-yellow solid crystal product with a recovery rate of 47.5%.

reactant | 2-cyano-4-methoxy-5-n-butoxyphenylamine | 1 mmol, 0.22 g | C(#N)C1=C(C=C(C(=C1)OC)OCCCC)N | C12H16N2O2
reactant | hydrochloric acid | 10 mol/L, 3 mL | Cl | ClH
reactant | sodium nitrite | 1 mmol, 0.072 g | N(=O)[O-].[Na+]
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | aniline | 1 mmol, 0.093 g | NC1=CC=CC=C1 | C6H7N
solvent | water | 1.0 mL | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 1-phenyl-3-(2-cyan-4-methoxy-5-n-butoxyphenyl)triazene | 0.154 g | C1(=CC=CC=C1)N=NNC1=C(C=C(C(=C1)OCCCC)OC)C#N | C18H20N4O2
